US08609883B2
The reaction is effected in a reactor arrangement of a first reactor of type E with a downstream reactor of type C. Before the start of the reaction, the first reactor is filled with a solution of 25.6% by weight of tert-butyl hydroperoxide and 15.0% by weight of potassium hydroxide in water. 20.2 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 18.2 kg/h of a solution of 45% by weight of potassium hydroxide in water, 16.2 kg/h of water and 19.2 kg/h of 3,5,5-trimethylhexanoyl chloride are then fed to the first reactor. Cooling with cooling water keeps the internal temperature in the first reactor at 25° C. and in the second reactor at 25° C. The organic phase is removed from the reaction mixture withdrawn from the second reactor. The organic phase is washed successively with an 8% by weight solution of sodium hydroxide in water, with a solution of 10% by weight of sodium sulphite in water comprising acetic acid and with a 1% by weight solution of sodium hydrogen-carbonate in water, and then dried by stripping in a packed column at 34° C. and 47 mbar. 24.6 kg/h of tert-butyl peroxy-3,5,5-trimethylhexanoate are obtained (98.2% based on 3,5,5-trimethylhexanoyl chloride). The space-time yield is 1.98 kg/l·h.

reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3,5,5-trimethylhexanoyl chloride | CC(CC(=O)Cl)CC(C)(C)C | C9H17ClO
solvent | water | O | H2O
product | tert-butyl peroxy-3,5,5-trimethylhexanoate | CC(CC(=O)OOC(C)(C)C)CC(C)(C)C | C13H26O3
